US08802679B2
tert-butyl (2-{[3-(2-Chloropyrimidin-5-yl)benzyl](methyl)amino}-2-oxoethyl)carbamate (250 mg) was dissolved in DMF (5 ml), and 4-piperidin-4-ylmorpholine (218 mg) and K2CO3 (265 mg) were added thereto, followed by stirring at room temperature for 3 days. To the reaction mixture was added water, followed by extraction with EtOAc, and then the organic layer was dried over MgSO4 and evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (0% to 5% MeOH/CHCl3) to obtain tert-butyl [2-(methyl{3-[2-(4-morpholin-4-ylpiperidin-1-yl)pyrimidin-5-yl]benzyl}amino)-2-oxoethyl]carbamate (285 mg).

reactant | tert-butyl (2-{[3-(2-Chloropyrimidin-5-yl)benzyl](methyl)amino}-2-oxoethyl)carbamate | 250 mg | ClC1=NC=C(C=N1)C=1C=C(CN(C(CNC(OC(C)(C)C)=O)=O)C)C=CC1 | C19H23ClN4O3
reactant | 4-piperidin-4-ylmorpholine | 218 mg | N1CCC(CC1)N1CCOCC1 | C9H18N2O
reactant | K2CO3 | 265 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | tert-butyl [2-(methyl{3-[2-(4-morpholin-4-ylpiperidin-1-yl)pyrimidin-5-yl]benzyl}amino)-2-oxoethyl]carbamate | 285 mg | CN(C(CNC(OC(C)(C)C)=O)=O)CC1=CC(=CC=C1)C=1C=NC(=NC1)N1CCC(CC1)N1CCOCC1 | C28H40N6O4
